US07179801B2
To a solution of ethyl 3-(1-methyl-5-triphenylmethylaminopyrazol-4-yl)propionate (22 g, 50 mmol) in methanol (60 ml) was added 10% aqueous sodium hydroxide solution (60 ml), and the mixture was stirred under reflux for 2 hours. The reaction mixture was acidified with 10% aqueous citric acid solution, and the mixture was extracted with a mixed solvent of chloroform and methanol. The extract was dried over anhydrous magnesium sulfate, filtered, and concentrated in vacuo. The residue was triturated with diisopropyl ether and dried in vacuo to give 3-(1-methyl-5-triphenylmethylaminopyrazol-4-yl)propionic acid (16 g) as a colorless solid.

reactant | ethyl 3-(1-methyl-5-triphenylmethylaminopyrazol-4-yl)propionate | 50 mmol, 22 g | CN1N=CC(=C1NC(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1)CCC(=O)OCC | C28H29N3O2
reactant | sodium hydroxide | 60 ml | [OH-].[Na+]
reactant | citric acid | C(CC(O)(C(=O)O)CC(=O)O)(=O)O | C6H8O7
solvent | methanol | 60 ml | CO | CH4O
product | 3-(1-methyl-5-triphenylmethylaminopyrazol-4-yl)propionic acid | 16 g | CN1N=CC(=C1NC(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1)CCC(=O)O | C26H25N3O2
